US04791139
A mixture of 3-phenoxybenzaldehyde (214 g), malonic acid (300 g) and pyridine (450 cm3) was heated at 50° C. until all the malonic acid had dissolved, after which piperidine (20 cm3) was added and the mixture heated at 100° C. for 3 hours. The mixture was poured into iced water (3.0 l) and acidified with concentrated hydrochloric acid (600 cm3). The precipitated solid was collected by filtration, washed with water and then dissolved in chloroform. The chloroform solution was washed with saturated sodium chloride solution and dried over anhydrous magnesium sulphate, after which the solvent was removed by evaporation under reduced pressure to give a solid residue which was recrystallised from a chloroform-hexane mixture to give E-3-(3-phenoxyphenyl)propenoic acid (219 g) as a white solid.

reactant | 3-phenoxybenzaldehyde | 214 g | O(C1=CC=CC=C1)C=1C=C(C=O)C=CC1 | C13H10O2
reactant | malonic acid | 300 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | piperidine | 20 cm3 | N1CCCCC1 | C5H11N
reactant | hydrochloric acid | 600 cm3 | Cl | ClH
solvent | water | 3.0 l | O | H2O
solvent | pyridine | 450 cm3 | N1=CC=CC=C1 | C5H5N
product | E-3-(3-phenoxyphenyl)propenoic acid | 219 g | O(C1=CC=CC=C1)C=1C=C(C=CC1)/C=C/C(=O)O | C15H12O3
